US06544985B2
{2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-5-dimethylamino-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J6) (320 mg, 1.0 mmol) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example L1) (275 mg, 1.2 mmol) according to the general procedure M. Obtained as a red viscous oil (196 mg).

reactant | (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | 1.0 mmol, 320 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)N)=O | C14H20F3N3O2
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | 1.2 mmol, 275 mg | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
product | {2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-5-dimethylamino-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C24H25F3N4O4
